US06340759B1
Synthesis of 1-[2-(4-morpholinyl)ethyl]amino-3-(4-methoxyphenyl)isoquinoline dihydrochloride
1-Chloro-3-(4-methoxyphenyl)isoquinoline (405 mg) and 4-(2-aminoethyl)morpholine (394 mg) were dissolved in N,N-dimethylformamide (5 ml), followed by the addition of potassium carbonate (415 ml), and the resulting mixture was stirred at 120° C. overnight. The reaction mixture was partitioned between ethyl acetate and water. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system). Then, the resulting product was converted into a hydrochloride in a conventional manner, and then recrystallized from ethanol/isopropyl ether, to give the hydrochloride of the title compound as pale yellow crystals (190 mg, yield; 27%).

reactant | 1-Chloro-3-(4-methoxyphenyl)isoquinoline | 405 mg | ClC1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | C16H12ClNO
reactant | 4-(2-aminoethyl)morpholine | 394 mg | NCCN1CCOCC1 | C6H14N2O
reactant | potassium carbonate | 415 ml | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-[2-(4-morpholinyl)ethyl]amino-3-(4-methoxyphenyl)isoquinoline dihydrochloride | 190 mg, yield; 27% | Cl.Cl.N1(CCOCC1)CCNC1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)OC | InChI=1S/C22H25N3O2.2ClH/c1-26-19-8-6-17(7-9-19)21-16-18-4-2-3-5-20(18)22(24-21)23-10-11-25-12-14-27-15-13-25;;/h2-9,16H,10-15H2,1H3,(H,23,24);2*1H
